* Z:\mnt\design.r\spice\examples\3421.asc
XU1 N003 IN N002 0 N010 N009 MP_01 N007 N008 0 0 MP_02 MP_03 N001 MP_04 MP_05 OUT OUT MP_06 MP_07 IN N004 0 N005 LTC3421
C1 N009 0 .001µ
R1 N010 0 28K
R2 N007 0 45.3K
R3 N006 N005 100K
C2 N006 0 470p
R4 N003 0 200K
R5 OUT N003 340K
C3 OUT 0 22µ
L1 IN N001 4.7µ
V1 IN 0 1.8
R6 N008 0 20K
C4 N008 0 .01µ
Rload OUT 0 30
.tran .7m startup
.lib LTC3421.sub
.backanno
.end
